datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1ccc(NC(=O)C[N:10]2CCCCC2)cc1.c1ccc(C(c2ccncc2)(c2ccncc2)[O:21][H:20])cc1>>Cc1ccc(NC(=O)C[N+:10]2([H:20])CCCCC2)cc1.c1ccc(C(c2ccncc2)(c2ccncc2)[O-:21])cc1 10=20;20,21=21",
"O=C1C=C(S(=O)(=O)[O-])c2cn[nH]c2/C1=N\[O-:10].O=[N+]([O-])c1ccccc1/C=N/[O:21][H:20]>>O=C1C=C(S(=O)(=O)[O-])c2cn[nH]c2/C1=N\[O:10][H:20].O=[N+]([O-])c1ccccc1/C=N/[O-:21] 10=20;20,21=21",
"C1CNCC[NH:10]CCN1.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>C1CNCC[NH+:10]([H:20])CCN1.O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=C(O[C@@H]1C[C@H]2CC[C@@H](C1)[NH:10]2)C(CO)c1ccccc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C(O[C@@H]1C[C@H]2CC[C@@H](C1)[NH+:10]2[H:20])C(CO)c1ccccc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N+:21]1([H:20])C[C@@H](CO)C[C@H]2c3cccc4[nH]cc(c34)C[C@@H]21.S=C(c1cccc(Br)c1)[N-:10]c1ccc(Cl)c(Cl)c1>>C[N:21]1C[C@@H](CO)C[C@H]2c3cccc4[nH]cc(c34)C[C@@H]21.S=C(c1cccc(Br)c1)[N:10](c1ccc(Cl)c(Cl)c1)[H:20] 10=20;20,21=21",
"O=C([O-])CCCCCCCC[NH2:10].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>O=C([O-])CCCCCCCC[NH2+:10][H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCCCC[N+:21](CC(O)CC)(CC(O)CC)[H:20].O=C([O-])CCC#CC#CCC[NH2:10]>>CCCCC[N:21](CC(O)CC)CC(O)CC.O=C([O-])CCC#CC#CCC[NH2+:10][H:20] 10=20;20,21=21",
"CCOC(=O)/C(C)=N/[O:21][H:20].C[N:10](CCC#N)CCC#N>>CCOC(=O)/C(C)=N/[O-:21].C[N+:10](CCC#N)(CCC#N)[H:20] 10=20;20,21=21",
"O=C(/C=C\C(=O)[O-:10])NOCc1ccccc1.c1c[nH]c(P(c2ncc[nH]2)c2[nH]cc[n+:21]2[H:20])n1>>O=C(/C=C\C(=O)[O:10][H:20])NOCc1ccccc1.c1c[nH]c(P(c2ncc[nH]2)c2[nH]cc[n:21]2)n1 10=20;20,21=21",
"C1CNC(=[O:10])N1.CC(=O)c1ccc([O:21][H:20])c(O)c1>>C1CNC(=[O+:10][H:20])N1.CC(=O)c1ccc([O-:21])c(O)c1 10=20;20,21=21",
"CC(C)C[NH:10]C(C)C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CC(C)C[NH+:10](C(C)C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"[NH3+]C(Cc1ccccc1)c1nnn[n-:10]1.c1coc(-c2ccc[n+:21]([H:20])c2)c1>>[NH3+]C(Cc1ccccc1)c1nnn[n:10]1[H:20].c1coc(-c2ccc[n:21]c2)c1 10=20;20,21=21",
"Cc1cc(C)nc([N-]S(=O)(=O)c2ccc([O-:10])cc2)n1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cc(C)nc([N-]S(=O)(=O)c2ccc([O:10][H:20])cc2)n1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cccnc2[n+:21]1[H:20].Cc1ccccc1-n1nn[n:10]c1N>>COc1cc(S(C)=O)ccc1-c1[nH]c2cccnc2[n:21]1.Cc1ccccc1-n1nn[n+:10]([H:20])c1N 10=20;20,21=21",
"CC[NH+](CC)CCCCCCCC(C)Nc1c2cc(OC)ccc2[n:10]c2cc(Cl)ccc12.N#CC(C#N)=N[N:21](c1c(Cl)cccc1Cl)[H:20]>>CC[NH+](CC)CCCCCCCC(C)Nc1c2cc(OC)ccc2[n+:10]([H:20])c2cc(Cl)ccc12.N#CC(C#N)=N[N-:21]c1c(Cl)cccc1Cl 10=20;20,21=21",
"NNC(=O)c1ccc([NH2:10])cc1.O=C1C=C(S(=O)(=O)[O-])NC(=O)[N:21]1[H:20]>>NNC(=O)c1ccc([NH2+:10][H:20])cc1.O=C1C=C(S(=O)(=O)[O-])NC(=O)[N-:21]1 10=20;20,21=21",
"CN(C)C1CC(C)(C)[NH:10]C(C)(C)C1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CN(C)C1CC(C)(C)[NH+:10]([H:20])C(C)(C)C1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].[O-]c1cc([O-])cc([O-:10])c1>>O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-].[O-]c1cc([O-])cc([O:10][H:20])c1 10=20;20,21=21",
"C1CCC(C2=[N+:21]([H:20])CCC2)CC1.O=[N+]([O-])c1cccc(O)c1[O-:10]>>C1CCC(C2=[N:21]CCC2)CC1.O=[N+]([O-])c1cccc(O)c1[O:10][H:20] 10=20;20,21=21",
"O=P([O-])([O-])C(c1ccccc1[O-])[NH:10]Cc1ccccn1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=P([O-])([O-])C(c1ccccc1[O-])[NH+:10](Cc1ccccn1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1[nH]c2ccccc2[n+:21]1[H:20].Oc1cc[n+]([O-:10])cc1>>COc1[nH]c2ccccc2[n:21]1.Oc1cc[n+]([O:10][H:20])cc1 10=20;20,21=21",
"CC(=O)CC(=O)[NH-:10].C[n+]1ccc2cccc([O:21][H:20])c2c1>>CC(=O)CC(=O)[NH:10][H:20].C[n+]1ccc2cccc([O-:21])c2c1 10=20;20,21=21",
"CC(CCCc1ccc(O)cc1)[NH2+:21][H:20].[O-][n+]1cnc2nc[n-]c2c1[NH-:10]>>CC(CCCc1ccc(O)cc1)[NH2:21].[O-][n+]1cnc2nc[n-]c2c1[NH:10][H:20] 10=20;20,21=21",
"C=CC(OCC(C)O)[O:21][H:20].COc1cc(NS(C)(=O)=O)ccc1-c1cn2cccnc2[n:10]1>>C=CC(OCC(C)O)[O-:21].COc1cc(NS(C)(=O)=O)ccc1-c1cn2cccnc2[n+:10]1[H:20] 10=20;20,21=21",
"CC(C)C1CC(CC(=O)[O-])[NH:10]C1C(=O)[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC(C)C1CC(CC(=O)[O-])[NH+:10]([H:20])C1C(=O)[O-].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"C=CC(CC(C)(C)CC(C)(C)C)c1ccc2ccc[n+:21]([H:20])c2c1O.c1ccc2cc3c(cc2c1)[nH]c[n:10]3>>C=CC(CC(C)(C)CC(C)(C)C)c1ccc2ccc[n:21]c2c1O.c1ccc2cc3c(cc2c1)[nH]c[n+:10]3[H:20] 10=20;20,21=21",
"Brc1cccc2ccc([O-:10])cc12.C[N+:21]1([H:20])[C@@H]2CC[C@H]1C[C@@H](O)C2>>Brc1cccc2ccc([O:10][H:20])cc12.C[N:21]1[C@@H]2CC[C@H]1C[C@@H](O)C2 10=20;20,21=21",
"CN(c1ccccc1)C(O)[OH+:21][H:20].Clc1ccc(C[NH2:10])cc1>>CN(c1ccccc1)C(O)[OH:21].Clc1ccc(C[NH2+:10][H:20])cc1 10=20;20,21=21",
"Cc1ccc(-c2c[n:10]c(-c3ccc(Br)cc3)o2)cc1.Cc1ccc(C(=O)C(=O)[O:21][H:20])cc1C>>Cc1ccc(-c2c[n+:10]([H:20])c(-c3ccc(Br)cc3)o2)cc1.Cc1ccc(C(=O)C(=O)[O-:21])cc1C 10=20;20,21=21",
"CC(C)(C)[C@]1(O)CC[N:10]2C[C@H]3c4ccccc4CCc4cccc(c43)[C@@H]2C1.Nc1ccc2c(ccc(/C=C/c3ccccc3)[n+:21]2[H:20])c1>>CC(C)(C)[C@]1(O)CC[N+:10]2([H:20])C[C@H]3c4ccccc4CCc4cccc(c43)[C@@H]2C1.Nc1ccc2c(ccc(/C=C/c3ccccc3)[n:21]2)c1 10=20;20,21=21",
